US06656965B2
Preparation of Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(N′α-benzoyl-L-phenylalanyl)-L-lysine
The title compound was prepared from solid phase bound Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(9-fluorenylmethoxycarbonyl)-L-lysine as described in general procedure Bb using Nα-benzoyl-L-phenylalanine (321 mg, 1.2 1mmol). The final product was purified by preparative HPLC to yield 44 mg (58%) of the desired material.

reactant | Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(9-fluorenylmethoxycarbonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C32H38N2O6S
reactant | Nα-benzoyl-L-phenylalanine | 1mmol, 321 mg | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C16H15NO3
product | Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(N′α-benzoyl-L-phenylalanyl)-L-lysine | CC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)[C@@H](CCCCNC(=O)[C@H](CC2=CC=CC=C2)NC(=O)C3=CC=CC=C3)C(=O)O | C33H41N3O6S
